US07812195B2
At −78° C., a solution of diisopropylamine (6.6 g, 34 mmol) in tetrahydrofuran (23 ml) was treated with n-butyl lithium (21 ml, 1.6M in hexane, 34 mmol). The resulting solution was warmed to 0° C., cooled to −78° C., and treated with a solution of 1-(rel-(1R,2S,6S)-6-ethyl-2-methylcyclohex-3-enyl)ethan-1-one (4.5 g, 27 mmol) in tetrahydrofuran (23 ml). The resulting solution was stirred 20 min. at −20° C., cooled to −78° C. and treated with a solution of acetaldehyde (1.8 g, 41 mmol) in tetrahydrofuran (23 ml). After 1 h stirring, aqueous 1 N HCl (50 ml) was added and the reaction mixture warmed to 20° C. The aq. phase was extracted with diethyl ether and the combined org. phases dried (MgSO4), and concentrated. A solution of the residue (4.9 g) in toluene (4.9 ml) was treated with para-toluene sulfonic acid monohydrate (20 mg) and refluxed overnight. The reaction mixture was cooled, treated with a saturated aqueous solution of NaHCO3 and the aqueous phase was extracted with diethyl ether. The combined organic phases were dried (MgSO4) and concentrated. FC (550 g SiO2, hexane/diethyl ether 9:1) of the crude product gave (2E)-1-(rel-(1R,2S,6S)-6-ethyl-2-methylcyclohex-3-enyl)but-2-en-1-one (2.9 g, 56%).

reactant | diisopropylamine | 34 mmol, 6.6 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 34 mmol, 1.6M, 21 ml | C(CCC)[Li]
reactant | 1-(rel-(1R,2S,6S)-6-ethyl-2-methylcyclohex-3-enyl)ethan-1-one | 27 mmol, 4.5 g | C(C)[C@H]1CC=C[C@@H]([C@@H]1C(C)=O)C | C11H18O
reactant | acetaldehyde | 41 mmol, 1.8 g | C(C)=O | C2H4O
reactant | HCl | 1 N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
product | (2E)-1-(rel-(1R,2S,6S)-6-ethyl-2-methylcyclohex-3-enyl)but-2-en-1-one | 2.9 g, 56% | C(C)[C@H]1CC=C[C@@H]([C@@H]1C(\C=C\C)=O)C | C13H20O
